US09371336B2
tert-Butyl 4-(3-(2-bromoacetyl)-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate (132 mg, 0.28 mmol) in 5 mL of EtOH was treated with 2-aminothiazole (34.1 mg, 0.34 mmol) at room temperature. The solution was refluxed for 16 hours and concentrated under vacuum. The residue was purified on silica gel to provide tert-butyl 4-(3-(imidazo[2,1-b]thiazol-6-yl)-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate (64.3 mg, 49%). MS m/z 468 [M+H]+.

reactant | tert-Butyl 4-(3-(2-bromoacetyl)-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate | 0.28 mmol, 132 mg | BrCC(=O)C1=CC=2C(=NC(=CC2)N2CCN(CCC2)C(=O)OC(C)(C)C)OC1=O | C20H24BrN3O5
reactant | 2-aminothiazole | 0.34 mmol, 34.1 mg | NC=1SC=CN1 | C3H4N2S
solvent | EtOH | 5 mL | CCO | C2H6O
product | tert-butyl 4-(3-(imidazo[2,1-b]thiazol-6-yl)-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate | 64.3 mg, 49% | S1C=2N(C=C1)C=C(N2)C2=CC=1C(=NC(=CC1)N1CCN(CCC1)C(=O)OC(C)(C)C)OC2=O | C23H25N5O4S
